spice
* SPICE Netlist
VDD 3 0 DC 5V
VIN in 0 DC 0V

R1 3 4 1k
RD 3 2 1k
R2 4 0 1k
RS 2 0 500

M1 2 4 0 0 NMOS

C1 in 4 10uF

.model NMOS NMOS(L=1u W=1u)
.end